US07279469B2
Dissolve 4,6-dichloropyrimidine, (1.1 g, 7.4 mmol), in 20 mL isopropanol, add potassium carbonate, (2 g, 15 mmol), and N-ethylpiperazine, (843 mg, 7.4 mmol). Stir at rt for 18 h, then add hydrazine, (1.6 g, 50 mmol) and heat to reflux for 22 h. Cool and filter, then evaporate the solvent from the filtrate. Take up the residue in 20 mL boiling acetonitrile and filter. Upon cooling, a white precipitate forms. Filter to obtain approx 1 g [6-(4-Ethyl-piperazin-1-yl)-pyrimidin-4-yl]-hydrazine as a white solid. (60%). MS ES+ 223.2

reactant | 4,6-dichloropyrimidine | 7.4 mmol, 1.1 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | potassium carbonate | 15 mmol, 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-ethylpiperazine | 7.4 mmol, 843 mg | C(C)N1CCNCC1 | C6H14N2
reactant | hydrazine | 50 mmol, 1.6 g | NN | H4N2
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
product | [6-(4-Ethyl-piperazin-1-yl)-pyrimidin-4-yl]-hydrazine | approx 1 g | C(C)N1CCN(CC1)C1=CC(=NC=N1)NN | C10H18N6
